### PR TITLE
Kind checking

### PR DESCRIPTION
**Pull request by TheCodingWombat**
Implemented kind checking.

### CODE REVIEW

File: _CoqProject
Comment (TheCodingWombat) [inline _CoqProject:1]: I could not make with this file in there?

File: src/PlutusIR/Semantics/Static/Kinding.v [hunk 1]
```diff
@@ -1,10 +1,44 @@
...
 Require Import PlutusCert.Util.List.
+Require Import Coq.Bool.Bool.
 
 Require Export PlutusCert.PlutusIR.Semantics.Static.Context.
+Require Import List.
+Import ListNotations.
 
 Import PlutusNotations.
 
+Fixpoint eqb_kind (K1 K2:kind) : bool :=
```
Comment (jaccokrijnen) [inline src/PlutusIR/Semantics/Static/Kinding.v:11]: There's a `Kind_eqb` in the Analysis.Equality module. Could you reuse that one?

File: src/PlutusIR/Semantics/Static/Kinding.v [hunk 2]
```diff
@@ -1,10 +1,44 @@
...
+    match K1,K2 with
+    | Kind_Base, Kind_Base => true
+    | Kind_Arrow K11 K12, Kind_Arrow K21 K22 =>
+        andb (eqb_kind K11 K21) (eqb_kind K12 K22)
+    | _, _ => false
+    end.
+
+(* Based on Software Foundation's eqb_type_refl *)
+Lemma eqb_kind_refl : forall kind,
```
Comment (jaccokrijnen) [inline src/PlutusIR/Semantics/Static/Kinding.v:20]: I don't think we have this one in Analysis.Equality, so it would be good to add it there. You might have to change the proof to rewrite with `Kind_eqb_eq`, because I expect the simplification won't work with the current definition of `Kind_eqb`.

File: src/PlutusIR/Semantics/Static/Kinding.v [hunk 3]
```diff
@@ -25,23 +59,73 @@ Inductive has_kind_uni : DefaultUni -> kind -> Prop :=
...
-
   | K_DefaultUniProtoList :
       |-*_uni DefaultUniProtoList : (Kind_Arrow Kind_Base Kind_Base)
-
   where "'|-*_uni' T ':' K" := (has_kind_uni T K)
 .
 
+Fixpoint kind_check_default_uni (d : DefaultUni) : option kind :=
+  match d with
+  | DefaultUniInteger => Some Kind_Base
```
Comment (jaccokrijnen) [inline src/PlutusIR/Semantics/Static/Kinding.v:75]: In gallina you can combine patterns for cases like this. For example:
```
match ... with
| DefaultUniUnit | DefaultUniBool | DefaultUniData => Some Kind_Base
...
end
```

File: src/PlutusIR/Semantics/Static/Kinding.v [hunk 4]
```diff
@@ -67,3 +151,189 @@ Inductive has_kind : list (string * kind) -> ty -> kind -> Prop :=
       Δ |-* T2 : K1 ->
       Δ |-* (Ty_App T1 T2) : K2
 where "Δ '|-*' T ':' K" := (has_kind Δ T K).
+
+Fixpoint kind_check (Delta : list (binderTyname * kind)) (ty : ty) : (option kind) :=
+    match ty with
+    | Ty_Var X => (* Based on Software Foundations and has_kind *)
+        lookup X Delta
+    | Ty_Fun T1 T2 => (* TODO: I don't understand what this datatype does*)
```
Comment (jaccokrijnen) [inline src/PlutusIR/Semantics/Static/Kinding.v:159]: RE your TODO: This is just the function type `A -> B`

File: src/PlutusIR/Semantics/Static/Kinding.v [hunk 5]
```diff
@@ -67,3 +151,189 @@ Inductive has_kind : list (string * kind) -> ty -> kind -> Prop :=
...
+        end
+    end.
+
+Theorem kind_checking_sound : forall Delta ty kind,
+    kind_check Delta ty = Some kind -> has_kind Delta ty kind.
+Proof.
+    intros Delta ty. generalize dependent Delta.
+    induction ty; intros Delta kind Htc; inversion Htc.
+    - (* Var *) 
+      destruct (lookup t Delta) eqn:H; [|discriminate].
```
Comment (jaccokrijnen) [inline src/PlutusIR/Semantics/Static/Kinding.v:199]: This seems unnecessary, you can directly apply K_Var and use the assumption.

File: src/PlutusIR/Semantics/Static/Kinding.v [hunk 6]
```diff
@@ -67,3 +151,189 @@ Inductive has_kind : list (string * kind) -> ty -> kind -> Prop :=
...
+        reflexivity.
+      }
+      subst kind.
+      apply K_Fun.
+      + apply IHty1.
+        destruct (kind_check Delta ty1) eqn:Hkc; [|discriminate].
+        destruct k; [|discriminate].
+        reflexivity.        
+      + apply IHty2.
+        destruct (kind_check Delta ty1); [|discriminate].
```
Comment (jaccokrijnen) [inline src/PlutusIR/Semantics/Static/Kinding.v:220]: There is a common pattern in the proof (`destruct <some-expression-in-a-match>; try discriminate`). You can do that quite generically with this ltac construct:
```coq
match goal with
    | H : (match ?X with _ => _ end = _ ) |- _ => destruct X; try discriminate
end.
```
It will look for a hypothesis of the form ` (match ?X with _ => _ end = _ )` and if it finds any `H` will be the name of that hypothesis, and `X` will be the expression that is being matched on. More about `match goal` [here](https://coq.inria.fr/doc/v8.19/refman/proof-engine/ltac.html#coq:tacn.match-goal).

You can make your own ltac tactic like this:
```coq
Ltac destruct_match :=
match goal with
    | H : (match ?X with _ => _ end = _ ) |- _ => destruct X; try discriminate
end
.
```
If you need to use it repeatedly like in some parts of the proof, you can write `repeat destruct_match`

**Comment by jaccokrijnen** [comment]
I've added some feedback on the code, it generally looks good :) Could you move the checking code and proofs in a separate coq module? I think `src/PlutusIR/Semantics/Static/Kinding/Checker.v` would be a logical place.

**Comment by TheCodingWombat** [comment]
@jaccokrijnen Moved the checker to its own file
